US07169803B2
(S)-3-(5-chloro-2-methoxyphenyl)-1-(chloromethyl)-3-fluoro-6-(trifluoromethyl)indolin-2-one; (S)-VII
To a solution of (S)-3-(5-chloro-2-methoxyphenyl)-1-(hydroxymethyl)-3-fluoro-6-(trifluoromethyl)indolin-2-one ((S)-VI) (64.5 g, 0.166 mol) in CH2Cl2 (700 mL) was added PCl3 (2.0 M in CH2Cl2, 255.0 mL, 0.510 mol) dropwise at 0° C. under N2 over a period of 50 min. The resultant mixture was warmed to rt. and the stirring continued overnight (16 h). The mixture was quenched with ice at 0° C. and the resultant mixture was stirred vigorously for 30 min. The organic layer was separated and the aqueous layer was washed with CH2Cl2. The combined organic layer was washed with brine and dried over Na2SO4. Chromatography (silica gel, EtOAc/Hexanes) provided the title compound as a white dry foam (42.0 g, 62% yield). LC/MS m/e: (no molecular ion), 97% purity. 1H NMR (CDCl3): δ 3.55 (s, 3H), 5.39 (d, J=10.5 Hz, 1H), 5.95 (d, J=11.0 Hz, 1H), 6.76 (dd, J=1.5, 9.0 Hz, 1H), 7.28 (m, 2H), 7.35 (dd, J=1.5, 9.0 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 7.78 (dd, J=1.0, 2.5 Hz, 1H).

reactant | (S)-3-(5-chloro-2-methoxyphenyl)-1-(hydroxymethyl)-3-fluoro-6-(trifluoromethyl)indolin-2-one | 0.166 mol, 64.5 g | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CO)=O)F)OC | C17H12ClF4NO3
reactant | PCl3 | 0.510 mol, 2.0 M, 255.0 mL | P(Cl)(Cl)Cl | Cl3P
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(5-chloro-2-methoxyphenyl)-1-(chloromethyl)-3-fluoro-6-(trifluoromethyl)indolin-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CCl)=O)F)OC | C17H11Cl2F4NO2
